US07863283B2
(RS)-S-Methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]amino}methyl)-phenyl]sulphoximide
According to GWP 6, the conversion of (RS)-N-(ethoxycarbonyl)-S-methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]amino}methyl)phenyl]sulphoximide (40 mg, 0.083 mmol) and chromatographic purification (silica gel, dichloromethane/methanol: 0→20% methanol) gives the desired product in 77% yield (26 mg).

reactant | (RS)-N-(ethoxycarbonyl)-S-methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]amino}methyl)phenyl]sulphoximide | 0.083 mmol, 40 mg | C(C)OC(=O)N=S(=O)(C1=CC(=CC=C1)CNC1=CC=C2C(=NC=NC2=C1)NC=1SC=CN1)C | C22H22N6O3S2
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-Methyl-S-[3-({[4-(thiazol-2-ylamino)quinazolin-7-yl]amino}methyl)-phenyl]sulphoximide | 77% yield | CS(=O)(=N)C1=CC(=CC=C1)CNC1=CC=C2C(=NC=NC2=C1)NC=1SC=CN1 | C19H18N6OS2
